US06180665B2
(S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine, γ-form
(S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine hydrate (the δ-form, see Preparation 2) (1.0 g) was stirred with either n-propanol or acetonitrile (10 ml) for 24 hours at room temperature. In each case the white solid obtained was collected by filtration and dried to provide the title compound, m.p. 172-176° C.

reactant | (S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine hydrate | O.C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O
reactant | n-propanol | C(CC)O | C3H8O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (S,S,S)-N-(1-[2-Carboxy-3-(N2-mesyllysylamino)propyl]-1-cyclopentylcarbonyl)tyrosine | C(=O)(O)[C@@H](CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)CNC([C@@H](NS(=O)(=O)C)CCCCN)=O | C26H40N4O9S
